### PR TITLE
[Merged by Bors] - feat(Data/Matrix/Basis): `center (Matrix n n α) = scalar n '' center α`

### PR DESCRIPTION
**Pull request by themathqueen**
The center of `Matrix n n α` is trivial for semiring `α`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matrix/Basis.lean [hunk 1]
```diff
@@ -416,6 +416,18 @@ theorem mem_range_scalar_iff_commute_single' {M : Matrix n n α} :
 @[deprecated (since := "2025-05-05")]
 alias mem_range_scalar_iff_commute_stdBasisMatrix' := mem_range_scalar_iff_commute_single'
 
+protected theorem center [CommSemiring R] :
+    Set.center (Matrix n n R) = Submodule.span R {(1 : Matrix n n R)} := Set.ext fun x => by
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basis.lean]: Is this true more generally with `scalar '' Set.center R` on the RHS, for non-commutative R?

Comment (themathqueen) [reply Mathlib/Data/Matrix/Basis.lean]: yup! lemme write up the proof

Comment (themathqueen) [reply Mathlib/Data/Matrix/Basis.lean]: Done!
I also only just realized that when it's commutative, then it's basically `Algebra.IsCentral.center_eq_bot`.

Comment (kckennylau) [reply Mathlib/Data/Matrix/Basis.lean]:
```lean
import Mathlib.Data.Matrix.Basis

@[nontriviality]
theorem Set.mem_center_of_subsingleton
    (α : Type*) [Mul α] [Subsingleton α] (x : α) :
    x ∈ center α := by
  simp [mem_center_iff, isMulCentral_iff, commute_iff_eq, nontriviality]

theorem Matrix.center {R n : Type*} [Semiring R] [Fintype n] [DecidableEq n] :
    Set.center (Matrix n n R) = scalar n '' Set.center R := Set.ext fun x => by
  obtain _ | hn := isEmpty_or_nonempty n
  · simpa [nontriviality] using Exists.intro _ Set.one_mem_center
  · obtain ⟨i⟩ := hn
    simp_rw [Set.mem_image, Semigroup.mem_center_iff]
    refine ⟨fun hx ↦ ?_, ?_⟩
    · obtain ⟨x, rfl⟩ := Matrix.mem_range_scalar_iff_commute_single'.mpr fun _ _ ↦ hx _
      refine ⟨_, fun r ↦ ?_, rfl⟩
      convert congr($(hx (single i i r)) i i) <;> simp
    · rintro ⟨x, hx, rfl⟩
      exact fun y ↦ (Matrix.scalar_commute x (fun r' ↦ (hx r').symm) y).symm
```
([Online](https://live.lean-lang.org/#codez=JYWwDg9gTgLgBAWQIYwBYBtgCMB0ARFJHZGKYADxwCEkBnYWgKEYAEBtAOwg9OADdgSTDACeAXUZoAptCkg4AZSkwcIOQH0AxlJ5So6iADN1tAK5Z6HAObpl3RnEdwAFIEbgOAC44AFRFgpAFQAlHBsCKbocK5ioQrmljZ2HFExzuSeUSEeDk7pgBBEcNq6UFGeALxwWCI59OChaiBaOjB66sCGhgA0cAzh6ADCzVBCbR3dmhAgIKYto8ZSAI7dXDxkAkLAohKSqDJQcogoZJRFLSUA3gBKcMlevv4BAL6xcsBk1nCXMWwAYsA8fikN2+eCkmmAABMkFhbABRBbAzw5RxKFSnPQuEjHG44y4hCq0TRCJAlZIAcjJimUOHRJWuHgqqJwUnI8EMpmS6TKAD5KtVHBAsDAkP84Oo4AAfOCoW4VBiw8CiAz6FZyMCiG45ADtcFqYCQoRWvHWwnEcFMCTgsPIDBgtBw/1IEDFVJU3Ck6gaTWK2rgguFosAF+TAQCX5OVpRxkbrQGB1FAAO4vFRe0BIKxSbpKEDAKxQCCmMCqDS0uYSJxwfaGf5AwPs5KodKAMsI4AB+dTdNshqM6/0i5KB8jdKCGdBhhmHXiUL3DawewnE/TtYwTKYzOf/RJk1RgEp1l3i5sNsVRxyV6twQPtuB7krNttDkdd8uOCYcPh6eCv3POAAkziPzgJLYPQgVAQQhMAPQhAAPAA3LyerdhWjp5heg7Suhw6jiecAskgmhshycAiHAzbOFiFA4PO6AklokzTC0cDpM4N6UmRR5QGSQRUSIUwhCI3G0LxICMEAA))

Comment (themathqueen) [reply Mathlib/Data/Matrix/Basis.lean]: ah, much cleaner than mine! thanks haha

File: Mathlib/Data/Matrix/Basis.lean [hunk 2]
```diff
@@ -416,6 +416,19 @@ theorem mem_range_scalar_iff_commute_single' {M : Matrix n n α} :
 @[deprecated (since := "2025-05-05")]
 alias mem_range_scalar_iff_commute_stdBasisMatrix' := mem_range_scalar_iff_commute_single'
 
+protected theorem center :
+    Set.center (Matrix n n α) = scalar n '' Set.center α := Set.ext fun x ↦ by
```
Comment (kckennylau) [inline Mathlib/Data/Matrix/Basis.lean]: I think we still want the original theorem for CommSemirings. We'll have to decide if the simpNF should be `Set.range (scalar n)` or `Submodule.span R {1}`...

File: Mathlib/Data/Matrix/Basis.lean [hunk 3]
```diff
@@ -416,6 +416,19 @@ theorem mem_range_scalar_iff_commute_single' {M : Matrix n n α} :
 @[deprecated (since := "2025-05-05")]
 alias mem_range_scalar_iff_commute_stdBasisMatrix' := mem_range_scalar_iff_commute_single'
 
+protected theorem center :
```
Comment (kckennylau) [inline Mathlib/Data/Matrix/Basis.lean]:
```suggestion
@[simp] protected theorem center :
```

File: Mathlib/Data/Matrix/Basis.lean (hunk 2 above)
Comment (themathqueen) [reply Mathlib/Data/Matrix/Basis.lean]: I've added it now with `Set.range (scalar n)`.
But, I don't think we really need this for commutative semirings. With more imports, it's basically the set version of `Algebra.IsCentral.center_eq_bot`.

Comment (themathqueen) [reply Mathlib/Data/Matrix/Basis.lean]:
```lean
import Mathlib.Algebra.Central.Matrix

variable {R n : Type*} [CommSemiring R] [Fintype n] [DecidableEq n]

theorem Matrix.center' : Set.center (Matrix n n R) = Set.range (scalar n) := by
  exact_mod_cast congr($(Algebra.IsCentral.center_eq_bot R (Matrix n n R)).carrier)
```

File: Mathlib/Data/Matrix/Basis.lean [hunk 4]
```diff
@@ -416,6 +416,23 @@ theorem mem_range_scalar_iff_commute_single' {M : Matrix n n α} :
 @[deprecated (since := "2025-05-05")]
 alias mem_range_scalar_iff_commute_stdBasisMatrix' := mem_range_scalar_iff_commute_single'
 
+theorem center' :
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basis.lean]:
```suggestion
theorem center_eq_scalar_image :
```

File: Mathlib/Data/Matrix/Basis.lean [hunk 5]
```diff
@@ -416,6 +416,23 @@ theorem mem_range_scalar_iff_commute_single' {M : Matrix n n α} :
...
+  refine ⟨fun hx ↦ ?_, ?_⟩
+  · obtain ⟨x, rfl⟩ := mem_range_scalar_iff_commute_single'.mpr fun _ _ ↦ hx _
+    refine ⟨_, fun r ↦ ?_, rfl⟩
+    convert congr($(hx (single i i r)) i i) <;> simp
+  · rintro ⟨x, hx, rfl⟩
+    exact fun y ↦ scalar_commute x (fun r' ↦ (hx r').symm) y |>.symm
+
+@[simp] protected theorem center [CommSemiring R] :
+    Set.center (Matrix n n R) = Set.range (scalar n) := by
+  simp only [center', Set.center_eq_univ, Set.image_univ, scalar]
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basis.lean]: Do you even need `scalar` here?

File: Mathlib/Data/Matrix/Basis.lean [hunk 6]
```diff
@@ -416,6 +416,23 @@ theorem mem_range_scalar_iff_commute_single' {M : Matrix n n α} :
 @[deprecated (since := "2025-05-05")]
 alias mem_range_scalar_iff_commute_stdBasisMatrix' := mem_range_scalar_iff_commute_single'
 
+theorem center' :
+    Set.center (Matrix n n α) = scalar n '' Set.center α := Set.ext fun x ↦ by
+  obtain _ | hn := isEmpty_or_nonempty n
+  · simpa [Semigroup.mem_center_iff, nontriviality] using .intro 1 (by simp)
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basis.lean]: Perhaps best left for a TODO comment: does this hold without associativity and/or unitality?

File: Mathlib/Data/Matrix/Basis.lean [hunk 7]
```diff
@@ -416,6 +416,23 @@ theorem mem_range_scalar_iff_commute_single' {M : Matrix n n α} :
...
+  obtain ⟨i⟩ := hn
+  simp_rw [Set.mem_image, Semigroup.mem_center_iff]
+  refine ⟨fun hx ↦ ?_, ?_⟩
+  · obtain ⟨x, rfl⟩ := mem_range_scalar_iff_commute_single'.mpr fun _ _ ↦ hx _
+    refine ⟨_, fun r ↦ ?_, rfl⟩
+    convert congr($(hx (single i i r)) i i) <;> simp
+  · rintro ⟨x, hx, rfl⟩
+    exact fun y ↦ scalar_commute x (fun r' ↦ (hx r').symm) y |>.symm
+
+@[simp] protected theorem center [CommSemiring R] :
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basis.lean]:
```suggestion
@[simp] protected theorem center_eq_range [CommSemiring R] :
```

File: Mathlib/Data/Matrix/Basis.lean (hunk 6 above)
Comment (themathqueen) [reply Mathlib/Data/Matrix/Basis.lean]: `Matrix.scalar` uses `Semiring`

File: Mathlib/Data/Matrix/Basis.lean (hunk 5 above)
Comment (themathqueen) [reply Mathlib/Data/Matrix/Basis.lean]: Either that or `Submodule.span R {1}`. But I think this looks neater?

File: Mathlib/Data/Matrix/Basis.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basis.lean]: That's unfortunate!

File: Mathlib/Data/Matrix/Basis.lean (hunk 2 above)
Comment (kckennylau) [reply Mathlib/Data/Matrix/Basis.lean]: > But, I don't think we really need this for commutative semirings

🤔 Then what was the motivation of this PR?

File: Mathlib/Data/Matrix/Basis.lean (hunk 6 above)
Comment (kckennylau) [reply Mathlib/Data/Matrix/Basis.lean]: @eric-wieser you'll find that center doesn't mean what you think it means without associativity...

File: Mathlib/Data/Matrix/Basis.lean (hunk 2 above)
Comment (themathqueen) [reply Mathlib/Data/Matrix/Basis.lean]: lmao! I only realized that afterwards

File: Mathlib/Data/Matrix/Basis.lean (hunk 6 above)
Comment (themathqueen) [reply Mathlib/Data/Matrix/Basis.lean]: yeah! also, all the previous results use associativity and unitality

File: Mathlib/Data/Matrix/Basis.lean (hunk 2 above)
Comment (themathqueen) [reply Mathlib/Data/Matrix/Basis.lean]: I guess the new motivation is that we'd want this anyway, and that this way is more general and uses less machinery.

File: Mathlib/Data/Matrix/Basis.lean (hunk 6 above)
Comment (themathqueen) [reply Mathlib/Data/Matrix/Basis.lean]: I mean I think you could possibly prove a version of this for `NonUnitalNonAssocSemiring`, but (a) just like @kckennylau said, center doesn't mean what we think it means without associativity, and (b) it'll be such an unnecessarily messy proof. I don't even think we'd ever use it that generally anyway.

File: Mathlib/Data/Matrix/Basis.lean [hunk 8]
```diff
@@ -416,6 +416,26 @@ theorem mem_range_scalar_iff_commute_single' {M : Matrix n n α} :
...
+    refine ⟨_, fun r ↦ ?_, rfl⟩
+    convert congr($(hx (single i i r)) i i) <;> simp
+  · rintro ⟨x, hx, rfl⟩
+    exact fun y ↦ scalar_commute x (fun r' ↦ (hx r').symm) y |>.symm
+
+/-- For a commutative semiring `R`, the center of `Matrix n n R` is the range of `scalar n`
+(i.e., the span of `{1}`). -/
+@[simp] protected theorem center_eq_range [CommSemiring R] :
+    Set.center (Matrix n n R) = Set.range (scalar n) := by
+  simp only [center_eq_scalar_image, Set.center_eq_univ, Set.image_univ, scalar]
```
Comment (kckennylau) [inline Mathlib/Data/Matrix/Basis.lean]:
```suggestion
@[simp] protected theorem center_eq_range [CommSemiring R] :
    Set.center (Matrix n n R) = Set.range (scalar n) := by
  rw [center_eq_scalar_image, Set.center_eq_univ, Set.image_univ]
```

File: Mathlib/Data/Matrix/Basis.lean [hunk 9]
```diff
@@ -416,6 +416,26 @@ theorem mem_range_scalar_iff_commute_single' {M : Matrix n n α} :
...
+  obtain _ | hn := isEmpty_or_nonempty n
+  · simpa [Semigroup.mem_center_iff, nontriviality] using .intro 1 (by simp)
+  obtain ⟨i⟩ := hn
+  simp_rw [Set.mem_image, Semigroup.mem_center_iff]
+  refine ⟨fun hx ↦ ?_, ?_⟩
+  · obtain ⟨x, rfl⟩ := mem_range_scalar_iff_commute_single'.mpr fun _ _ ↦ hx _
+    refine ⟨_, fun r ↦ ?_, rfl⟩
+    convert congr($(hx (single i i r)) i i) <;> simp
+  · rintro ⟨x, hx, rfl⟩
+    exact fun y ↦ scalar_commute x (fun r' ↦ (hx r').symm) y |>.symm
```
Comment (kckennylau) [inline Mathlib/Data/Matrix/Basis.lean]:
```suggestion
theorem center_eq_scalar_image :
    Set.center (Matrix n n α) = scalar n '' Set.center α := Set.ext fun x ↦ by
  simp_rw [Set.mem_image, Semigroup.mem_center_iff]
  refine ⟨fun hx ↦ ?_, fun ⟨x, hx, eq⟩ y ↦ eq ▸ scalar_commute x (hx · |>.symm) y |>.symm⟩
  refine (isEmpty_or_nonempty n).elim (fun _ ↦ ⟨1, by simp [nontriviality]⟩) fun ⟨i⟩ ↦ ?_
  obtain ⟨x, rfl⟩ := mem_range_scalar_iff_commute_single'.mpr fun _ _ ↦ hx _
  exact ⟨_, fun r ↦ by convert congr($(hx (single i i r)) i i) <;> simp, rfl⟩
```
5 lines?!

Comment (themathqueen) [reply Mathlib/Data/Matrix/Basis.lean]: lol nice!

File: Mathlib/Data/Matrix/Basis.lean [hunk 10]
```diff
@@ -416,6 +416,21 @@ theorem mem_range_scalar_iff_commute_single' {M : Matrix n n α} :
...
+    Set.center (Matrix n n α) = scalar n '' Set.center α := Set.ext fun x ↦ by
+  simp_rw [Set.mem_image, Semigroup.mem_center_iff]
+  refine ⟨fun hx ↦ ?_, fun ⟨x, hx, eq⟩ y ↦ eq ▸ scalar_commute x (hx · |>.symm) y |>.symm⟩
+  refine (isEmpty_or_nonempty n).elim (fun _ ↦ ⟨1, by simp [nontriviality]⟩) (fun ⟨i⟩ ↦ ?_)
+  obtain ⟨x, rfl⟩ := mem_range_scalar_iff_commute_single'.mpr fun _ _ ↦ hx _
+  exact ⟨_, fun r ↦ by convert congr($(hx (single i i r)) i i) <;> simp, rfl⟩
+
+/-- For a commutative semiring `R`, the center of `Matrix n n R` is the range of `scalar n`
+(i.e., the span of `{1}`). -/
+@[simp] protected theorem center_eq_range [CommSemiring R] :
```
Comment (kckennylau) [inline Mathlib/Data/Matrix/Basis.lean]:
```suggestion
@[simp] theorem center_eq_range [CommSemiring R] :
```

File: Mathlib/Data/Matrix/Basis.lean [hunk 11]
```diff
@@ -416,6 +416,21 @@ theorem mem_range_scalar_iff_commute_single' {M : Matrix n n α} :
 @[deprecated (since := "2025-05-05")]
 alias mem_range_scalar_iff_commute_stdBasisMatrix' := mem_range_scalar_iff_commute_single'
 
+/-- The center of `Matrix n n α` is equal to the image of the center of `α` under `scalar n`. -/
+theorem center_eq_scalar_image :
+    Set.center (Matrix n n α) = scalar n '' Set.center α := Set.ext fun x ↦ by
```
Comment (kckennylau) [inline Mathlib/Data/Matrix/Basis.lean:427]: Should we use `Submonoid.center` instead?

File: Mathlib/Data/Matrix/Basis.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basis.lean]: To be clear, I resolved this thread to indicate that no work was required and this is out of scope for this PR. I'm curious if @j-loreaux could see themselves eventually caring at all about this generality though.

File: Mathlib/Data/Matrix/Basis.lean (hunk 11 above)
Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basis.lean:427]: In theory you could repeat this lemma for every bundled version, replacing `''` with `.map`

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basis.lean:427]: But we should definitely keep the current one either way.

Comment (themathqueen) [reply Mathlib/Data/Matrix/Basis.lean:427]: I added a `Submonoid.center` version

File: Mathlib/Data/Matrix/Basis.lean (hunk 9 above)
Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basis.lean]: This looks a little overgolfed to me.

File: Mathlib/Data/Matrix/Basis.lean [hunk 12]
```diff
@@ -416,6 +416,26 @@ theorem mem_range_scalar_iff_commute_single' {M : Matrix n n α} :
 @[deprecated (since := "2025-05-05")]
 alias mem_range_scalar_iff_commute_stdBasisMatrix' := mem_range_scalar_iff_commute_single'
 
+/-- The center of `Matrix n n α` is equal to the image of the center of `α` under `scalar n`. -/
+theorem center_eq_scalar_image :
+    .center (Matrix n n α) = scalar n '' .center α := Set.ext fun x ↦ by
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basis.lean]: Let's be clear here
```suggestion
    Set.center (Matrix n n α) = scalar n '' Set.center α := Set.ext fun x ↦ by
```
since there are many `center`s

File: Mathlib/Data/Matrix/Basis.lean [hunk 13]
```diff
@@ -416,6 +416,26 @@ theorem mem_range_scalar_iff_commute_single' {M : Matrix n n α} :
...
+  simp_rw [Set.mem_image, Semigroup.mem_center_iff]
+  refine ⟨fun hx ↦ ?_, fun ⟨x, hx, eq⟩ y ↦ eq ▸ scalar_commute x (hx · |>.symm) y |>.symm⟩
+  refine (isEmpty_or_nonempty n).elim (fun _ ↦ ⟨1, by simp [nontriviality]⟩) (fun ⟨i⟩ ↦ ?_)
+  obtain ⟨x, rfl⟩ := mem_range_scalar_iff_commute_single'.mpr fun _ _ ↦ hx _
+  exact ⟨_, fun r ↦ by convert congr($(hx (single i i r)) i i) <;> simp, rfl⟩
+
+/-- The center of `Matrix n n α` is equal to the image of the center of `α` under `scalar n`. -/
+theorem center_eq_scalar_map :
+    .center (Matrix n n α) = (Submonoid.center α).map (scalar n) :=
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basis.lean]:
```suggestion
    Submonoid.center (Matrix n n α) = (Submonoid.center α).map (scalar n) :=
```
Can you add the `Subgroup` / `Subsemiring` / `Subring` versions too?

File: Mathlib/Data/Matrix/Basis.lean (hunk 9 above)
Comment (themathqueen) [reply Mathlib/Data/Matrix/Basis.lean]: I agree, the previous one was more readable

File: Mathlib/Data/Matrix/Basis.lean [hunk 14]
```diff
@@ -416,6 +416,37 @@ theorem mem_range_scalar_iff_commute_single' {M : Matrix n n α} :
...
+/-- The center of `Matrix n n α` is equal to the image of the center of `α` under `scalar n`. -/
+theorem center_eq_scalar_image :
+    Set.center (Matrix n n α) = scalar n '' Set.center α := Set.ext fun x ↦ by
+  simp_rw [Set.mem_image, Semigroup.mem_center_iff]
+  refine ⟨fun hx ↦ ?_, fun ⟨x, hx, eq⟩ y ↦ eq ▸ scalar_commute x (hx · |>.symm) y |>.symm⟩
+  refine (isEmpty_or_nonempty n).elim (fun _ ↦ ⟨1, by simp [nontriviality]⟩) (fun ⟨i⟩ ↦ ?_)
+  obtain ⟨x, rfl⟩ := mem_range_scalar_iff_commute_single'.mpr fun _ _ ↦ hx _
+  exact ⟨_, fun r ↦ by convert congr($(hx (single i i r)) i i) <;> simp, rfl⟩
+
+theorem center_eq_scalar_submonoid_map :
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basis.lean]: I'd probably argue for
```suggestion
theorem submonoidCenter_eq_scalar_map :
```
etc

**Review by eric-wieser — APPROVED** [review]
bors d+

Please check the last changes I pushed look ok before merging

Thanks!

File: Mathlib/Algebra/Central/Matrix.lean [hunk 15]
```diff
@@ -10,25 +10,25 @@ import Mathlib.Data.Matrix.Basis
 # The matrix algebra is a central algebra
 -/
 
+namespace Matrix
+
+variable {n R A : Type*}
+variable [CommSemiring R] [Semiring A] [Algebra R A] [Fintype n] [DecidableEq n]
```
Comment (themathqueen) [inline Mathlib/Algebra/Central/Matrix.lean]:
```suggestion
variable {n R A : Type*} [CommSemiring R] [Semiring A] [Algebra R A] [Fintype n] [DecidableEq n]
```
